US08207373B2
Stage 1: (4-bromo-3-methyl-phenyl)-(2-methyl-6-nitro-phenyl)-amine
The product (3.90 g) is obtained according to the method of stage 1 of Example 4, by using 2.78 g of 2-fluoro-3-methyl-nitrobenzene and 5 g of 4-bromo-3-methyl-aniline in the presence of 3.22 g of potassium tert-butanolate in 70 mL of DMSO.

reactant | 2-fluoro-3-methyl-nitrobenzene | 2.78 g | FC1=C(C=CC=C1C)[N+](=O)[O-] | C7H6FNO2
reactant | 4-bromo-3-methyl-aniline | 5 g | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | potassium tert-butanolate | 3.22 g | C(C)(C)(C)[O-].[K+]
solvent | DMSO | 70 mL | CS(=O)C | C2H6OS
product | (4-bromo-3-methyl-phenyl)-(2-methyl-6-nitro-phenyl)-amine | BrC1=C(C=C(C=C1)NC1=C(C=CC=C1[N+](=O)[O-])C)C | C14H13BrN2O2
